US09278973B2
To a solution of 3-(2-chlorophenyl)-1H-1,2,4-triazol-5-amine (50 mg, 0.25 mmol) in n-BuOH (0.2 mL) was added ethyl 3-(1-ethyl-1H-indazol-5-yl)-3-oxopropanoate (100 mg, 0.37 mmol) and p-TsOH (10 mg) at room temperature. After refluxing overnight, the solids were collected by filtration and washed with methanol (3×2 mL) to afford 2-(2-chlorophenyl)-5-(1-ethyl-1H-indazol-5-yl)-[1,2,4]triazolo[1,5-α]pyrimidin-7(4H)-one as a yellow solid (39.5 mg, 40%).

reactant | 3-(2-chlorophenyl)-1H-1,2,4-triazol-5-amine | 0.25 mmol, 50 mg | ClC1=C(C=CC=C1)C1=NNC(=N1)N | C8H7ClN4
reactant | ethyl 3-(1-ethyl-1H-indazol-5-yl)-3-oxopropanoate | 0.37 mmol, 100 mg | C(C)N1N=CC2=CC(=CC=C12)C(CC(=O)OCC)=O | C14H16N2O3
reactant | p-TsOH | 10 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | n-BuOH | 0.2 mL | CCCCO | C4H10O
product | 2-(2-chlorophenyl)-5-(1-ethyl-1H-indazol-5-yl)-[1,2,4]triazolo[1,5-α]pyrimidin-7(4H)-one | 39.5 mg, 40% | ClC1=C(C=CC=C1)C1=NN2C(NC(=CC2=O)C=2C=C3C=NN(C3=CC2)CC)=N1 | C20H15ClN6O
